US08486970B2
A solution of 153 mg of (6-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}-1-oxidopyridin-3-yl)methyl benzoate in 3 ml of ethanol was cooled to 0° C., and 32 mg of sodium hydroxide was added thereto, followed by stirring at 0° C. for 2 hours. The solution was neutralized with 1 M hydrochloric acid, and a saturated aqueous sodium hydrogen carbonate solution and chloroform were added for liquid separation. The organic layer was dried over anhydrous magnesium sulfate and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain 24 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[5-(hydroxymethyl)-1-oxidopyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide.

reactant | (6-{[({[(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)oxy]methyl}-1-oxidopyridin-3-yl)methyl benzoate | 153 mg | C(C1=CC=CC=C1)(=O)OCC=1C=[N+](C(=CC1)CONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl)[O-] | C37H36Cl2N4O8S
reactant | sodium hydroxide | 32 mg | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (3RS,4RS)-3-(2,4-dichlorophenyl)-N-{[5-(hydroxymethyl)-1-oxidopyridin-2-yl]methoxy}-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 24 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)NOCC1=[N+](C=C(C=C1)CO)[O-])=O)C1C(CCCC1)NS(=O)(=O)C | C30H32Cl2N4O7S
